US07183306B2
Et3N (326 mg) and then a solution of di-tert-butyl dicarbonate (594 mg) in CH2Cl2 (3 ml) was added successively to a suspension of ethyl 5-[4-(aminomethyl)phenyl]-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxylate hydrochloride (960 mg) in CH2Cl2 (9 ml). After stirring at ambient temperature for 1 hour, the reaction mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and 1M HCl. The organic layer was washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was recrystallized from AcOEt/n-hexane to give ethyl 5-(4-{[(tert-butoxy-carbonyl)amino]methyl}phenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxylate (1.045 g) as a powder.

reactant | Et3N | 326 mg | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 594 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl 5-[4-(aminomethyl)phenyl]-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxylate hydrochloride | 960 mg | Cl.NCC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)C(=O)OCC
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 9 ml | C(Cl)Cl | CH2Cl2
product | ethyl 5-(4-{[(tert-butoxy-carbonyl)amino]methyl}phenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxylate | 1.045 g | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)C(=O)OCC | C25H29N3O5
